US05489593
1-[4-Methoxy-3,5-dimethylbenzoyl]-4-[3-(ethylamino)-2-pyridinyl]piperazine (IV)
3,5-Dimethyl-4-methoxybenzoic acid (I, PREPARATION 3, 0.36 g) is added to a solution of 1,1'-carbonyldiimidazole (0.33 g) in tetrahydrofuran (4 ml) at 20°-25°. After one hour of stirring, 4-[3-(ethylamino)-2-pyridinyl]piperazine (II, International Publication No WO 87/01706 based on International Patent application No PCT/US86/01797, PREPARATION A-47, 0.42 g) in tetrahydrofuran (6 ml) is added and the solution is stirred for 18 hours. The mixture is diluted with dichloromethane and a saturated aqueous sodium bicarbonate solution. The phases are separated, the organic phase is washed with water, then with saline and the phases are separated. The organic phase is dried over sodium sulfate and concentrated under reduced pressure to give an oil. The oil is flash chromatographed on silica gel (230-400 mesh), the product eluted with chloroform, the appropriate fractions are pooled and concentrated to give the title compound.

reactant | 3,5-Dimethyl-4-methoxybenzoic acid | 0.36 g | CC=1C=C(C(=O)O)C=C(C1OC)C | C10H12O3
reactant | 1,1'-carbonyldiimidazole | 0.33 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[3-(ethylamino)-2-pyridinyl]piperazine | C(C)NC=1C(=NC=CC1)N1CCNCC1 | C11H18N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-Methoxy-3,5-dimethylbenzoyl]-4-[3-(ethylamino)-2-pyridinyl]piperazine | COC1=C(C=C(C(=O)N2CCN(CC2)C2=NC=CC=C2NCC)C=C1C)C | C21H28N4O2
